US08802728B2
Add H2O (18 mg, 1.0 mmol) and TMSCl (92 mg, 0.857 mmol) to a solution of 3-dimethylaminomethyl-2-(3-fluoro-5-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol (218 mg, 0.781 mmol) in 2-butanone (70 mL). Then stir the reaction mixture at room temperature for 2 hours. After removal the solvent by evaporation, wash the residue with EtOAc (3 mL×2) to give 3-dimethylaminomethyl-2-(3-fluoro-5-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol hydrochloride as white solid (72 mg, Yield: 67.8%). 1H NMR (400 MHz, D2O) δ 6.93 (s, 1H), 6.87-6.89 (d, J=9.6, 1H), 6.42-6.58 (m, 1H), 3.32-3.33 (t, J=3.2, 1H), 2.98-3.04 (m, 1H), 2.77 (m, 6H), 2.22-2.23 (m, 1H), 2.06 (m, 1H), 1.81-1.85 (m, 2H), 1.61-1.71 (m, 1H), 1.17-1.21 (m, 1H), 1.08-1.10 (m, 1H), 0.83-0.86 (m, 1H), 0.56-0.60 (m, 1H).

reactant | H2O | 1.0 mmol, 18 mg | O | H2O
reactant | TMSCl | 0.857 mmol, 92 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | 3-dimethylaminomethyl-2-(3-fluoro-5-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol | 0.781 mmol, 218 mg | CN(C)CC1C(C2CC2CC1)(O)C1=CC(=CC(=C1)O)F | C16H22FNO2
solvent | 2-butanone | 70 mL | CC(CC)=O | C4H8O
product | 3-dimethylaminomethyl-2-(3-fluoro-5-hydroxy-phenyl)-bicyclo[4.1.0]heptan-2-ol hydrochloride | 72 mg, Yield: 67.8% | Cl.CN(C)CC1C(C2CC2CC1)(O)C1=CC(=CC(=C1)O)F | InChI=1S/C16H22FNO2.ClH/c1-18(2)9-11-4-3-10-5-15(10)16(11,20)12-6-13(17)8-14(19)7-12;/h6-8,10-11,15,19-20H,3-5,9H2,1-2H3;1H
